US06307047B1
2-Benzyl-4-methoxy-5-bromo-3(2H)-pyridazinone is prepared according to the method of Example 83B starting with 2-benzyl-4,5-dibromo-3(2H)-pyridazinone, in place of 2-(2,2,2-trifluoroethyl)-4,5-dibromo-3(2H)-pyridazinone and substituting methanol in place of isopropanol.

reactant | 2-benzyl-4,5-dibromo-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Br)Br | C11H8Br2N2O
reactant | 2-(2,2,2-trifluoroethyl)-4,5-dibromo-3(2H)-pyridazinone | FC(CN1N=CC(=C(C1=O)Br)Br)(F)F | C6H3Br2F3N2O
solvent | methanol | CO | CH4O
product | 2-Benzyl-4-methoxy-5-bromo-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)Br | C12H11BrN2O2
